US05736548
A mixture of 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (2.0 g, 9 mmol) , 4-nitrobenzaldehyde (2.04 g, 13.5 mmol), methanesulfonic acid (0.25 ml) and xylenes (50 ml) was heated at reflux overnight, followed by an additional 6 hours. Ethanol (200 ml) was added to the reaction mixture, which was then refluxed and then treated with DARCO®. The reaction mixture was filtered, concentrated to 100 ml and then cooled. Yellow needles formed, which were collected by filtration and washed with ether to afford 0.53 g (17%) of 1-cyclopentyl-3-ethyl-6-(4-nitrophenyl)pyrazolo [3,4-d]pyrimidin-4-one, m.p. 321°-323° C. (dec.).

reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 9 mmol, 2.0 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 4-nitrobenzaldehyde | 13.5 mmol, 2.04 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | methanesulfonic acid | 0.25 ml | CS(=O)(=O)O | CH4O3S
reactant | DARCO | C | CH4
solvent | Ethanol | 200 ml | C(C)O | C2H6O
product | 1-cyclopentyl-3-ethyl-6-(4-nitrophenyl)pyrazolo [3,4-d]pyrimidin-4-one | 0.53 g, 17% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC=C(C=C2)[N+](=O)[O-])CC | C18H19N5O3
